US04762881
A suspension of 2.0 g of N-Acetyl-m-benzoyl-D-phenylalanine in 15 ml of 8N hydrochloric acid was heated to 100° in the steam bath for 4 h. The suspension was filtered hot, solid was washed with 8N hydrochloric acid, then water. The filtrate was neutralized with 1N sodium hydroxide and yielded 1.503 g of m-benzoyl-D-phenylalanine after water washing and drying under nitrogen, m.p. 230°-231°, [α]D25 =+3.3±0.8 C=0.90 g/100 ml 1N HCl. Anal.: Calcd. for C16H15NO3 : C, 71.36; H, 5.61; N, 5.20. Found: C, 70.43; H, 5.34; N, 5.37.

reactant | N-Acetyl-m-benzoyl-D-phenylalanine | 2.0 g | C(C)(=O)N[C@H](CC1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C(=O)O | C18H17NO4
solvent | hydrochloric acid | 8N, 15 ml | Cl | ClH
product | m-benzoyl-D-phenylalanine | 1.503 g | C(C1=CC=CC=C1)(=O)C=1C=C(C[C@@H](N)C(=O)O)C=CC1 | C16H15NO3
